US07265149B2
In analogy to the procedure described for example 1 a], 3-[2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-propionic acid ethyl ester was reduced with lithium aluminium hydride in diethyl ether to give 3-[2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-propan-1-ol as yellow oil.

reactant | 3-[2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-propionic acid ethyl ester | C(C)OC(CCC=1N(N=C(C1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C16H17F3N2O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-propan-1-ol | CN1N=C(C=C1CCCO)C1=CC=C(C=C1)C(F)(F)F | C14H15F3N2O
